US07691879B2
4-(3-fluorophenyl)-1-(1H-imidazol-5-ylmethoxy)-6-methoxyisoquinoline-3-carbonitrile
4-(3-fluorophenyl)-6-methoxy-1-[(1-trityl-1H-imidazol-5-yl)methoxy]isoquinoline-3-carbonitrile (255 mg) was dissolved in 4 mL of 5% TFA in CH2Cl2 at 0 C to give a bright yellow solution. The reaction was stirred at 0 C for 2.5 h, then at room temp for 1.5 h. MeOH was added, and the reaction was partitioned between CH2Cl2 and saturated aqueous sodium bicarbonate. The aqueous solution was further extracted with CH2Cl2 (3×). The combined organic solutions were dried over MgSO4 and concentrated. The white solid residue was recrystallized from CH2Cl2-EtOAc to give white solid. The mother liquor was concentrated and purified by flash chromatography (0% to 10% MeOH(10% NH4OH) in EtOAc to give additional white solid.

reactant | 4-(3-fluorophenyl)-6-methoxy-1-[(1-trityl-1H-imidazol-5-yl)methoxy]isoquinoline-3-carbonitrile | 255 mg | FC=1C=C(C=CC1)C1=C(N=C(C2=CC=C(C=C12)OC)OCC1=CN=CN1C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C#N | C40H29FN4O2
reactant | MeOH | CO | CH4O
solvent | TFA | 4 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 4-(3-fluorophenyl)-1-(1H-imidazol-5-ylmethoxy)-6-methoxyisoquinoline-3-carbonitrile | FC=1C=C(C=CC1)C1=C(N=C(C2=CC=C(C=C12)OC)OCC1=CN=CN1)C#N | C21H15FN4O2
